### PR TITLE
[Merged by Bors] - feat(SetTheory/Cardinal/Arithmetic): cardinality of ordinal exponential

### PR DESCRIPTION
**Pull request by vihdzp**
We prove variations on `(a ^ b).card = max a.card b.card`.

---

- [x] depends on: #16866 
- [x] depends on: #17845
- [x] depends on: #18901

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/SetTheory/Cardinal/Arithmetic.lean [hunk 1]
```diff
@@ -849,6 +849,84 @@ theorem card_iSup_Iio_le_card_mul_iSup {o : Ordinal.{u}} (f : Ordinal.{u} → Or
...
+    · simpa using hb.pos.ne'
+    · refine le_ciSup_of_le ?_ ⟨1, one_lt_omega0.trans_le <| omega0_le_of_isLimit hb⟩ ?_
+      · exact Cardinal.bddAbove_of_small _
+      · simpa
+
+theorem card_opow_le_of_omega0_le_right (a : Ordinal) {b : Ordinal} (hb : ω ≤ b) :
+    (a ^ b).card ≤ max a.card b.card := by
+  obtain ⟨n, rfl⟩ | ha := eq_nat_or_omega0_le a
+  · apply (card_le_card <| opow_le_opow_left b (nat_lt_omega0 n).le).trans <|
+      (card_opow_le_of_omega0_le_left le_rfl _).trans _
```
Comment (YnirPaz) [inline Mathlib/SetTheory/Cardinal/Arithmetic.lean:882]:
```suggestion
  · apply (card_le_card <| opow_le_opow_left b (nat_lt_omega0 n).le).trans
    apply (card_opow_le_of_omega0_le_left le_rfl _).trans
```

**Review by YnirPaz — APPROVED** [review]

**Review by b-mehta — COMMENTED** [review]
Nice!

bors merge
